US04471116
Using the conditions described above in method A, 1-[3-(2-chloro-10H-phenothiazin-10-yl)propyl]-4-(2-chloroethyl)piperazine (13.9 g) and 4-[3-(1-methylethyl)aminopropyl]phenol (7.0 g) were reacted in the presence of 9.25 ml 4.0N sodium hydroxide in 100 ml dimethylsulfoxide. The crude free base, isolated by extraction using chloroform, was dissolved in ethyl acetate and treated with hydrogen chloride in ethyl acetate to give the crude trihydrochloride salt. Crystallization from methanol-isopropanol yielded 10.8 g of 1-[3-(2-chloro-10H-phenothiazin-10-yl)propyl]-4-[2-[4-[3-(1-methylethyl)aminopropyl]phenoxy]ethyl]piperazine trihydrochloride, mp 215°-225°.

reactant | 1-[3-(2-chloro-10H-phenothiazin-10-yl)propyl]-4-(2-chloroethyl)piperazine | 13.9 g | ClC1=CC=2N(C3=CC=CC=C3SC2C=C1)CCCN1CCN(CC1)CCCl | C21H25Cl2N3S
reactant | 4-[3-(1-methylethyl)aminopropyl]phenol | 7.0 g | CC(C)NCCCC1=CC=C(C=C1)O | C12H19NO
reactant | sodium hydroxide | 4.0N, 9.25 ml | [OH-].[Na+]
reactant | hydrogen chloride | Cl | ClH
solvent | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-[3-(2-chloro-10H-phenothiazin-10-yl)propyl]-4-[2-[4-[3-(1-methylethyl)aminopropyl]phenoxy]ethyl]piperazine trihydrochloride | 10.8 g | Cl.Cl.Cl.ClC1=CC=2N(C3=CC=CC=C3SC2C=C1)CCCN1CCN(CC1)CCOC1=CC=C(C=C1)CCCNC(C)C | InChI=1S/C33H43ClN4OS.3ClH/c1-26(2)35-16-5-7-27-10-13-29(14-11-27)39-24-23-37-21-19-36(20-22-37)17-6-18-38-30-8-3-4-9-32(30)40-33-15-12-28(34)25-31(33)38;;;/h3-4,8-15,25-26,35H,5-7,16-24H2,1-2H3;3*1H
